US07314888B1
In 8 ml of acetonitrile is dissolved 0.80 g of methyl 2-(5-formyl-2-isobutoxyphenyl)acetate. After successively adding 2.03 g of sodium dihydrogen-phosphate dissolved in 25 ml of water, 0.69 ml of 30% aqueous hydrogen peroxide and 0.73 g of sodium chlorite dissolved in 15 ml of water at a temperature of 5-10° C., the mixture thus obtained is stirred at 5-10° C. for 3.5 hours. Chloroform and water are added to the reaction mixture, pH is adjusted to 2.0 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. Thus, 0.62 g of 3-(methoxycarbonylmethyl)-4-isobutoxybenzoic acid is obtained as a colorless crystalline product.

reactant | methyl 2-(5-formyl-2-isobutoxyphenyl)acetate | 0.80 g | C(=O)C=1C=CC(=C(C1)CC(=O)OC)OCC(C)C | C14H18O4
reactant | sodium dihydrogen-phosphate | 2.03 g | P(=O)(O)(O)[O-].[Na+]
reactant | hydrogen peroxide | 0.69 ml | OO | H2O2
reactant | sodium chlorite | 0.73 g | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | water | 25 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(methoxycarbonylmethyl)-4-isobutoxybenzoic acid | 0.62 g | COC(=O)CC=1C=C(C(=O)O)C=CC1OCC(C)C | C14H18O5
